Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"worsening depression"
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ is a ___ year old transgender female with self reported
history of major depressive disorder (therapist: ___ 
___
BIBA on ___ from therapists office due to concern for
increasing depressive symptoms (irritable mood, lack of
motivation, decreased energy), engagement in self-cutting
behaviors, auditory and visual hallucinations, and intrusive
suicidal thoughts resulting in recent SI with plan. 

Per Dr. ___ ___ Initial Psych Note

"She reports that for the past year or so, she has been 
depressed
and cutting. Her depression manifests with fatigue, increased
eating, increased sleep, low interest and motivation, and
suicidal thoughts. She cuts herself typically to escape negative
feelings, and more recently, as practice for suicide. She 
started
an antidepressant for the first time about 6 weeks ago,
bupropion. She took it only briefly due to development of
anxiety, insomnia, tinnitus, and- of marked concern to patient-
experiences of hearing whispers and seeing shadowy figures. Her
symptoms improved soon after stopping bupropion, but returned a
few weeks later. She has been seeing shadowy figures again and
hearing various noises including rumbling sounds, whispering,
screaming, laughing, name calling, or commands to harm herself 
or
kill herself by cutting. She sometimes has difficulty 
determining
if these sounds/voices are real or not, for example she may look
around the room or ask her boyfriend if he heard them. She has
never had these experiences before, except for an experience of
"religious delusions" as a teenager- she explains that in late
middle school/ early high school in the context of her very
religious upbringing, she believed she was possessed by demons. 

She has several important psychosocial stressors. She has a
cancer-predisposing genetic mutation and colonic polyp. She has
been working overtime lately in her work in ___. And she struggles with body dysmorphia and
family estrangement related to being transgender. There has been
no clear recent change in these chronic stressors, except for
increased overtime work.

COLLATERAL:
Spoke in person with patient's boyfriend ___. He reports that
over past 3 weeks she seems to be getting worse with cutting,
hallucinations, and today he found out about her SI. He had
wondered if she was having suicidal thoughts, since she had been
saying she doesn't feel comfortable being alone when they are
apart. This fear of being alone has gotten worse in the past few
days; now, she is even afraid to be alone in a dark room while 
he
is in the house. She has been sometimes asking him if he heard a
sound that he did not hear, but otherwise she has not been
appearing to be hallucinating or behaving in bizarre ways. Her
depression is a big issues, but chronic and predating these
changes. He thinks her depression might be a little worse 
lately.
He does not feel like she can be safe at home alone right now."

In the ___ was spent the majority of the day sleeping.
Risperidone 0.5 mg BID was initiated with an additional dose PRN
dose of 0.5 mg Risperidone written for anxiety. Received Tetanus
vaccine in ___. 

On arrival to the unit today ___ reports ongoing irritable
mood, increased sleep, lack of motivation, low energy. Prior to
arrival at ___, ___ was experiencing increasing frequency 
of
anxiety, restlessness, and suicidal ideation in setting of
recently starting Wellbutrin 150 mg by her primary care 
provider.
Since starting the medication 7 weeks ago, she noted increasing
intrusive thoughts regarding suicide that resulted in
presentation to her PCP and discontinuation of the medication. 
At
this time, ___ also noted new onset auditory (whispers,
laughing, shouting, indistinguishable voices) and visual
hallucinations(illusions? shadows appearing as "grotesque
things"). Patient also reports an increased compulsion to start
cutting again (none since ___ and has resulted in
multiple (>10) superficial ~6cm horizontal cuts on the right and
left forearms. Over last several weeks the intrusive suicidal
thoughts have intensified and resulted in two events of suicidal
ideation with intent to die by cutting her wrists and taking
pills. One and a half weeks ago in setting of experiencing
increasingly suicidal thoughts, ___, took the bottle of her
prescribed hormones and placed it to her lips. She was able to
stop herself by thinking of the consequences of her actions and
realizing that she has a strong desire to live. Two and a half
days ago ___ reports an additional event of suicidal ideation
with intent to cut her wrists with intention of "killing self."

REVIEW OF SYSTEMS:
 -Psychiatric: 
Positive per HPI:
Denies:
loss of appetite/weight changes, avoidance, phobias, panic,
distractibility, delusions of reference, paranoia, thought
insertion/broadcasting/withdrawal.

-General: 
+constipation
Denies fatigue, fever, chills, nightsweats, headache,
focal numbness, focal weakness, changes in vision, polyuria,
cough, SOB, CP, palpitations, abdominal pain, nausea,
vomiting, diarrhea, dysuria, increased
urinary frequency, rash, skin changes, joint pain, muscle pain,
edema.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
 -Prior diagnoses: MDD
 -Hospitalizations: None previous
 -Psychiatrist:denies
 -Therapist: ___
 -Medication trials: Wellbutrin
 -___ trials: denies
 -Self-injurious behavior: cutting behaviors on arms first in
___. Stopped and then resumed again recently.
 -Harm to others: denies
 -Access to weapons: denies

 PAST MEDICAL HISTORY:
Per Dr. ___ Initial Psychiatry 
Consult
note with revision/supplementation as provided per history at
time of admission to unit. 

"per OMR records:
- 2 sessile serrated adenomas identified at age ___
- APC p.R24* and MUTYH p.Y179C familial pathogenic mutations
 
Social History:
SUBSTANCE USE HISTORY:
 -Tobacco: denies
 -Alcohol:  social drinker of ___ drinks weekly.
 ---Denies history of alcohol withdrawal, DTs, seizures.
 -Marijuana: tried it once or twice.
 -Heroin: denies
 -Opiates: denies
 -Cocaine: denies
 -Amphetamines/speed: denies
 -LSD/PCP: denies
 -___: Denies

 FORENSIC HISTORY:
 -Arrests: Denies
 -Convictions and jail terms: Denies
 -Current status (pending charges, probation, parole): Denies

SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
Per Dr. ___ Initial Psychiatry 
Consult
note with revision/supplementation as provided per history at
time of admission to unit

- mother has "something, maybe anxiety?"
- no family hx substance use or suicide

Family Medical History notable for
- APC mutation (p.R24X); MUTYH mutations x 2 (p.Y179C; p.G396D);
colon cancer; colon polyps; breast cancer;
ovarian cancer; lung cancer; uterine cancer; melanoma; basal 
cell
carcinoma; liver cancer; kidney cancer."
 
Physical Exam:
VITAL SIGNS:
24 HR Data (last updated ___ @ 1832)
    Temp: 98 (Tm 98), BP: 116/85, HR: 98, RR: 16, O2 sat: 97%,
Wt: 210 lb/95.26 kg

 EXAM:

General:
 -HEENT: Normocephalic, atraumatic. Moist mucous membranes,
 oropharynx clear. No scleral icterus, no lymphadenopathy
 -Cardiovascular: Regular rate and rhythm, normal S1,S2, no
 murmurs/rubs/gallops. 
 -Pulmonary: No increased work of breathing.  Lungs clear to
 auscultation bilaterally.  No wheezes/rhonchi/rales.
 -Abdominal: Non-distended, bowel sounds normoactive.No
 tenderness to palpation in all quadrants. 
 -Extremities: Warm and well-perfused.  No edema of the limbs.
 -Skin: No rashes or lesions noted. Multiple (>10 per arm)
superficial healing horizontal cuts on the  medial surface of 
the
forearms bilaterally extending from 2 cm proximal to the wrist 
to
the cubital fossa. 

Neurological:
 -Cranial Nerves:
 ---I: Olfaction not tested.
 ---II: PERRL 3 to 2mm, 
 ---III, IV, VI: EOMI without nystagmus
 ---V: Facial sensation intact to light touch in all
distributions
 ---VII: nasolabial folds symmetric bilaterally
 ---VIII: deferred
 ---IX, X: Palate elevates symmetrically
 ---XI: ___ strength in trapezii and SCM bilaterally
 ---XII: Tongue protrudes midline
 -Motor: Normal bulk and tone bilaterally. Strength ___ in
deltoids, biceps, triceps, quadriceps, hamstrings,
 -Sensory: No deficits to fine touch throughout
 -DTRs: 2 and symmetrical throughout
 Coordination: Normal on finger to nose test, no intention 
tremor
 noted
 -Gait: Good initiation. Narrow-based, normal stride and arm
 swing.  Able to walk in tandem without difficulty. 

Absence of resting tremor, absence of action tremor
Absence of rigidity or spasticity

Cognition: 
 -Wakefulness/alertness: Awake and alert
 -Attention: WORLD backwards w/ 0 errors
 -Orientation: ___ ___,
summer
 -Executive function (go-no go, Luria, trails, FAS): Not tested
 -Memory: ___ recall after 3 minutes (no "church"
spontaneously or with hints)
 -Fund of knowledge: Consistent with education; intact to last 4
 presidents
 -Calculations: 1.10 = 22 nickels
 -Abstraction: Interprets "the grass is always greener on the
 other side" as "the other perspective looks better but this is
not always true"
 -Visuospatial: left thumb to right ear
 -Language: Native ___ speaker, no paraphasic errors,
 appropriate to conversation

Mental Status:
 -Appearance/Behavior: shoulder length blonde hair, dressed in
hospital gown, appearing stated age, fair eye contact, mild
psychomotor agitation, 
 -Attitude: Cooperative, engaged, friendly
 -Mood: "exhausted"
 -Affect: Mood-congruent, restricted, appropriate to situation
 -Speech: Normal rate, volume, and tone
 -Thought process: Linear, coherent, goal-oriented, no loose
 associations
 -Thought Content:
 ---Safety: SI+
 ---Delusions: No evidence of paranoia, etc. 
 ---Obsessions/Compulsions: No evidence based on current
encounter
 ---Hallucinations: Denies AVH, not appearing to be attending to
 internal stimuli
 -Insight: Poor
 -Judgment: Limited
 
Pertinent Results:
LABS, IMAGING, AND OTHER STUDIES:
'CBC/Diff' sheet entries (Most Recent):
___: WBC: 13.0*
___: RBC: 4.32
___: HGB: 13.3
___: HCT: 39.3
___: MCV: 91
___: MCH: 30.8
___: MCHC: 33.8
___: RDW: 12.3
___: Plt Count: 329
___: Neuts%: 75.5*
___: Lymphs: 17.2*
___: MONOS: 4.5*
___: Eos: 1.5
___: BASOS: 1.0
___: AbsNeuts: 9.80*

'Basic Chemistry' sheet entries (Most Recent):
___: Na: 141 (New reference range as of ___: K: 4.1 (New reference range as of ___: Cl: 103
___: CO2: 25
___: BUN: 16
___: Creat: 1.2*
___: Glucose: 108* (If fasting, 70-100 normal, >125
provisional diabetes)
 
Brief Hospital Course:
==========
ASSESSMENT
==========
___ is a ___ yo M to F transgender woman, PMHx of
serrated adenomas, familial APC/MUTYH mutations, PPHx of MDD, no
prior inpatient admissions, no past SAs, who presented to ___
on a S12 from therapist's office due to concerns for worsening
depressive sxs (irritable mood, amotivation, low energy),
engagement in self-cutting, AVH, and intrusive SI with plan. 

At time of admission to Deac4, presentation notable for
depressive sxs, hallucinations, SI, 2 planned attempts to kill
self (one by wrist-cutting and another by overdosing on pills),
with mental status notable for anxious/depressed affect and 
range
restriction. 

===============
DSM 5 DIAGNOSES
=============== 
- depressive mood disorder NOS
- r/o borderline personality disorder, r/o complex PTSD

# Legal/Safety
Patient was admitted to ___ on a conditional voluntary 
status as she signed the CV form which was reviewed and accepted 
by the admitting psychiatrist. She was placed on 15 minute 
checks and initially was restricted sharps usage due to history 
of self-injurious behaviors by cutting, but throughout admission 
patient displayed good behavioral control without concerns for 
safety and was granted monitored sharps access. Patient remained 
unit restricted due to acuity of symptoms as well as suicidal 
ideation at time of presentation.

# Depressive symptoms, ?hallucinations
Patient initially expressed depressive symptoms of irritable 
mood, amotivation, decreased energy, engagement in self-cutting 
behavior, intrusive suicidal thoughts with plan to die by wrist 
cutting and overdosing on pills. She also reported having 
"hallucinations" of grotesque mental images and shadowy figures 
that were visible briefly in the corner of her vision. She also 
reported having auditory hallucinations of externally audible 
voices. Patient was initiated on risperidone 0.5mg po bid on 
___ after risks/benefits were discussed, to which patient 
expressed interest for trialing the medication to target the 
anxiety, intrusive thoughts, and possible hallucinations. On 
___ sertraline 25mg po daily was started to treat the 
depressive mood symptoms, after risks/benefits were discussed. 
Patient tolerated both medications without notable side effects, 
other than mild constipation which she reported she also 
experienced at baseline for which she was provided with a bowel 
regimen which she tolerated without issues. Throughout the 
admission, patient clarified her symptoms of auditory 
halluciations as being an internal dialogue between different 
personas in her mind and not external auditory voices, and she 
also reported that the illusive shadowy figures visible in her 
periphery may have been seen in her prior experiences of 
dissociations which she endorsed as having utilized as a 
frequent coping mechanism during her earlier adolescence during 
times of stress/bullying. From the time of admission and 
throughout her hospital stay, treatment team did not find signs 
of psychosis such as internal preoccupation, delusional thought 
content, inability to reality test, disorganized thought 
process/behavior, blunting of affect. While patient was 
initially adherent to the idea of a diagnosis of major 
depressive disorder with psychotic features, she was provided 
with psychoeducation and how her symptoms of hallucinations 
appeared to be more consistent with illusions/dissociative 
phenomena which may be more consistent with a diagnostic 
etiology of borderline personality disorder/complex PTSD. 
However, patient was unable to recall/identify a traumatic event 
other than consistent hardship throughout her adolescence due to 
gender identity issues in the setting of her 
family/religious/cultural background. She also reported a 
history of being able to have meaningful relationships that 
lasted for over one year, with her current boyfriend having been 
with her for ___ years and finding that he was attentive to her 
needs and denied signs of relational/emotional strain with 
instability. Psychological testing was performed by inpatient 
psychologist to evaluate for borderline personality disorder, 
with results of test still pending by time of discharge. By time 
of discharge, patient was reporting improved mood, motivation, 
feeling hopeful, future/goal oriented about recovering for a 
week with her boyfriend before returning to her projects as a 
___, was enjoying pleasurable activities such as 
playing games that her boyfriend brought to the unit, reading, 
and was seen participating in the milieu and with staff 
appropriately in a pleasant manner. She reported intermittent 
thoughts of cutting but that they were well-contained and was 
able to contract for safety with plans for seeking help if she 
began to feel concerns for safety. She demonstrated fair insight 
and good judgment by time of discharge and was actively engaged 
in her treatment.

# Hormone replacement therapy
Patient was continued on her home regimen of estradiol 2mg po 
tid and spironolactone 100mg po bid.

# Allergies
Pt was offered her home regimen of loratadine 10mg po daily prn 
allergies.

# Constipation
Pt was offered a bowel regimen of psyllium powder 1pkt po tid 
prn constipation, senna 8.6mg po bid prn, and docusate 100mg po 
bid prn. 

# Social work/disposition
Pt was referred to the ___ program at 
___ as she had expressed specific interest in this program. 
She was also instructed that she would be having a psychopharm 
provider bridged through the partial program until her PCP 
referral for ___ psychiatrist could be made. A follow-up PCP 
appointment with Dr. ___ was made. 

Ms. ___ had opportunity to review results of psychological testing 
with Dr. ___.
In short, psychological testing supported sx's of affective 
instability with depression as well as 
"activation/irritability". Pattern characteristic for Borderline 
personality traits was also evident. Additionally, pt had 
evidence for somatic preoccupation.
On the discharge date, Ms. ___ reported feeling well. Pt denied 
S/I. She reported that chronic self injurious urges are at a low 
level. Pt asked to be discharged around noon-1pm. As her 
boyfriend is going to pick her up. She plans to stay with 
boyfriend for the next week. She also shared what steps she 
could make in case of emergency.

RISK ASSESSMENT:
By time of discharge, patient remained at an elevated risk of 
self-harm due to static factors of history of suicide attempts, 
history of abuse, Caucasian race, LGBTQ identity, possibility of 
a personality disorder, and chronic medical illness. Modifiable 
risk factors addressed during this stay included suicidal 
ideation (by time of discharge, patient did report intermittent 
transient desires for self-injurious behavior, but stated the 
frequency/intensity was significantly decreased compared to the 
time of admission and stated that she felt able to contain them 
and safety plan with plan for communicating to others and her 
supports if she felt unsafe and to seek further care), lack of 
outpatient provider (patient was provided a referral to the 
___ partial program which will bridge her for psychopharm 
treatment). Protective factors noted at time of discharge 
included help seeking nature, future oriented viewpoint, no 
irritability/agitation, no range/anger/revenge, no recent loss, 
reality testing ability, good coping skills, good 
problem-solving skills, positive relationship with outpatient 
providers (therapist), no history of substance use disorder. 

While prognosis remains guarded due to these risk factors, 
treatment team determined that patient would be suitable for 
continuation of treatment in the outpatient setting by the time 
of discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Spironolactone 100 mg PO BID HRT 
2. Estradiol 2 mg PO TID HRT 
3. RisperiDONE 0.5 mg PO BID 

 
Discharge Medications:
1.  Loratadine 10 mg PO DAILY:PRN allergies  
2.  Sertraline 25 mg PO DAILY depressive mood 
RX *sertraline 25 mg one tablet(s) by mouth daily Disp #*15 
Tablet Refills:*0 
3.  Estradiol 2 mg PO TID HRT  
4.  RisperiDONE 0.5 mg PO BID 
RX *risperidone [Risperdal] 0.5 mg one tablet(s) by mouth twice 
daily Disp #*30 Tablet Refills:*0 
5.  Spironolactone 100 mg PO BID HRT  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
unspecified depressive mood disorder. Rule out depression with 
psychotic features.
Rule-out borderline personality disorder/complex PTSD

 
Discharge Condition:
ambulatory status: independently ambulating
Vitals:
T 98.5, BP 106/67, HR 89, RR 16, SpO2 95%
NEUROLOGIC
- Station: normal
- Gait: normal
- Tone: normal
- Strength: moves all four limbs at least against gravity
- Abnormal Movements: no tremors or adventitious movements

MENTAL STATUS:
- Appearance: ___ yo Caucasian woman, overweight, larger
frame/build, shoulder-lengthy ___ hair, freckles on 
face,
wearing sweater and jeans, appears well hydrated/nourished, no
acute distress
- Behavior: no psychomotor agitation or retardation, appropriate
eye contact
- Attitude: cooperative, engaged, friendly
-Mood: ''
- Affect: overall constricted affect although does frequently
smile although smiles appear somewhat forced and uncomfortable,
anxious appearing
- Speech: normal rate, volume, and prosody
- Thought process: linear, coherent, goal-oriented, no loose
associations
- Thought Content:
     - Safety: endorses SIB and transient SI but pt denies
feeling concerned she would act upon them
     - Delusions: no evidence of paranoia, etc. 
     - Obsessions/Compulsions: no evidence based on current
encounter
     - Hallucinations: see above, does not appear to be
internally preoccupied
- Insight: fair
- Judgment: fair

COGNITION 
- Wakefulness/alertness: awake and alert
- Attention: not formally assessed but attentive to interview
- Orientation: oriented to person, time, place, situation
- Executive function (go-no go, Luria, trails, FAS): not 
assessed
- Memory: not formally assessed but intact to interview
- Fund of Knowledge: appropriate
- Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___